US08212041B2
7-Methoxy-4-((6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)quinoline
In a 50 mL sealable flask was charged with PdCl2(dppf)-CH2Cl2 adduct (0.011 g, 0.013 mmol), 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline (0.150 g, 0.44 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.18 g, 0.48 mmol), sat NaHCO3 (0.75 ml, >0.97 mmol) and 4 mL dioxane. The vessel was sealed and the mixture heated at 80 C for 22 h. The mixture was allowed to cool to rt and diluted with EtOAc, the organic layer washed with water, sat. NaHCO3, dried over Na2SO4, filtered and evaporated. The residue was dissolved in 5 mL CH2Cl2 and TFA (1.20 ml, 16 mmol) was added. The mixture was stirred at rt for 10 min and evaporated. The residue was taken up into CH2Cl2 and stirred with minimal 2N NaOH for 1 h (ph basic). The mixture was evaporated and purified by prep hplc. The title compound was obtained as an off-white solid. M/Z=457.3 [M+H], calc 456.5076 for C24H24N8O2.

reactant | 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline | 0.44 mmol, 0.150 g | ClC=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C16H12ClN5O2
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.48 mmol, 0.18 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | NaHCO3 | >0.97 mmol, 0.75 ml | C(=O)(O)[O-].[Na+]
reactant | TFA | 16 mmol, 1.20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.013 mmol, 0.011 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 7-Methoxy-4-((6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)quinoline | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1N=C(C=C2)C=2C=NN(C2)C2CCNCC2 | C24H24N8O2
